US04508727
2.7 g of benzyl (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-ethoxycarbonyl-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate and 100 mg of palladium black are treated in the same manner as described in Example 1-(2), whereby 2.05 g of (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-ethoxycarbonyl-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid are obtained as colorless crystals. Yield: 89.9%

reactant | benzyl (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-ethoxycarbonyl-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate | 2.7 g | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)OCC1=CC=CC=C1)C([C@H](C)N[C@@H](CCCCCCCC)C(=O)OCC)=O)=O | C33H45N3O6
catalyst | palladium black | 100 mg | [Pd] | Pd
product | (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-ethoxycarbonyl-n-nonyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid | 2.05 g, Yield: 89.9% | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)O)C([C@H](C)N[C@@H](CCCCCCCC)C(=O)OCC)=O)=O | C26H39N3O6
